US07649005B2
4-(3-Chloro-benzyloxy)-benzaldehyde
A 0.5 M solution of 1-bromomethyl-3-chloro-benzene (102.7 mg, 0.5 mmol) in acetone was added to a suspension of 4-hydroxy-benzaldehyde (67.2 mg, 0.55 mmol), K2CO3 (207.3 mg, 1.5 mmol) and KI (10.8 mg, 0.065 mmol) in acetone (7 ml). The reaction mixture was stirred for 2 hours at 70° C.

reactant | 1-bromomethyl-3-chloro-benzene | 0.5 mmol, 102.7 mg | BrCC1=CC(=CC=C1)Cl | C7H6BrCl
reactant | 4-hydroxy-benzaldehyde | 0.55 mmol, 67.2 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 1.5 mmol, 207.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 4-(3-Chloro-benzyloxy)-benzaldehyde | ClC=1C=C(COC2=CC=C(C=O)C=C2)C=CC1 | C14H11ClO2
